US05514691
3-Amino-4-bromo-5-methylisoxazole (5.31 g, 30 mmol) was dissolved in dry pyridine (30 ml). Benzenesulfonyl chloride (5.24 ml, 42 mmol) was added dropwise with stirring at ambient temperature. N,N-(Dimethyl)aminopyridine (100 mg) was added and stirring was continued at 50° C. for 25 h. The reaction mixture was diluted with dichloromethane (200 ml), washed with 1N HCl (6×100 ml) and the organic phase was dried over magnesium sulfate. The solvent was removed under reduced pressure to yield a crude product which was purified by column chromatography using 9: 1, hexanes/ethyl acetate as eluent to give N-(benzenesulfonyl)-N-(4-bromo-5-methyl-3-isoxazolyl)benzenesulfonamide (7 g, 51% yield, Rf =0.27 using 3:1, hexanes/ethyl acetate as eluent) as a solid.

reactant | 3-Amino-4-bromo-5-methylisoxazole | 30 mmol, 5.31 g | NC1=NOC(=C1Br)C | C4H5BrN2O
reactant | Benzenesulfonyl chloride | 42 mmol, 5.24 ml | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
solvent | pyridine | 30 ml | N1=CC=CC=C1 | C5H5N
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
product | N-(benzenesulfonyl)-N-(4-bromo-5-methyl-3-isoxazolyl)benzenesulfonamide | 7 g, 51% yield | C1(=CC=CC=C1)S(=O)(=O)N(S(=O)(=O)C1=CC=CC=C1)C1=NOC(=C1Br)C | C16H13BrN2O5S2
